US07304081B2
(1R)-1′-{[1-(4-Pyrimidin-5-ylphenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
A mixture of (1R)-1′-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (15.0 mg, 0.0000408 mol, prepared by a procedure analogous to that in step 1 of example 173), pyrimidin-5-ylboronic acid (5.6 mg, 0.000045 mol), tris(dibenzylidene acetone)dipalladium(0) (2 mg, 0.000002 mol), and tri-tert-butylphosphine (0.8 mg, 0.000004 mol), cesium carbonate (16 mg, 0.000049 mol) in 1,4-dioxane (1.0 mL, 0.013 mol) was microwave irradiated at 90° C. for 30 minutes. The crude product was purified with prep-HPLC. LC/MS: 412.2 (M+H+).

reactant | (1R)-1′-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C21H18ClNO3
reactant | pyrimidin-5-ylboronic acid | 0.000045 mol, 5.6 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | tri-tert-butylphosphine | 0.000004 mol, 0.8 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | cesium carbonate | 0.000049 mol, 16 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 0.013 mol, 1.0 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylidene acetone)dipalladium(0) | 0.000002 mol, 2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1R)-1′-{[1-(4-Pyrimidin-5-ylphenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | N1=CN=CC(=C1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C25H21N3O3
